US03992400
In the manner given in Preparation 11, 2-amino-5-nitrobenzophenone hydrazone is refluxed with potassium hydroxide in diethylene glycol to give 2-benzyl-4-nitroaniline.

reactant | 2-amino-5-nitrobenzophenone hydrazone | NC1=C(C(C2=CC=CC=C2)=NN)C=C(C=C1)[N+](=O)[O-] | C13H12N4O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-benzyl-4-nitroaniline | C(C1=CC=CC=C1)C1=C(N)C=CC(=C1)[N+](=O)[O-] | C13H12N2O2
